US07678815B2
While maintaining a temperature of 0-5° C. with external ice cooling, 3-hydroxy-2-methyl pyridine (10.00 g, 91.63 mmol) was added gradually to concentrated sulfuric acid (65.00 ml). A mixture of concentrated sulfuric acid (8.50 ml) and nitric acid (6.50 g, 103.16 mmol) was added over 2 h. The resulting mixture was poured onto ice. Addition of a few milliliters of saturated ammonium hydroxide caused precipitation of crude 2-methyl-6-nitro-pyridin-3-ol. This was collected by filtration and recrystallized from methanol/water to yield pure 2-methyl-6-nitro-pyridin-3-ol (1.37 g, 10%). Basification of the mother liquors to pH 3-4 triggered precipitation of the isomeric 2-methyl-4-nitro-pyridin-3-ol (major component), which was discarded.

reactant | 3-hydroxy-2-methyl pyridine | 91.63 mmol, 10.00 g | OC=1C(=NC=CC1)C | C6H7NO
reactant | sulfuric acid | 65.00 ml | S(O)(O)(=O)=O | H2O4S
reactant | sulfuric acid | 8.50 ml | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 103.16 mmol, 6.50 g | [N+](=O)(O)[O-] | HNO3
reactant | ammonium hydroxide | a few milliliters | [OH-].[NH4+]
product | 2-methyl-6-nitro-pyridin-3-ol | 1.37 g, 10% | CC1=NC(=CC=C1O)[N+](=O)[O-] | C6H6N2O3
